US05595992
4-(4-hexylidene-cyclohexyloxy)-quinazoline
130 mg (4.3 mmol) of 80% NaH are added to a solution of 0.7 g (3.5 mmol) of 4-hexylidenecyclohexanol in 20 ml of absolute THF, and the mixture is refluxed for 1 hour until deproteination is complete. 0.6 g (3.6 mmol) of 4-chloroquinazoline is subsequently added to the reaction solution at boiling point, and the mixture is refluxed for 3 hours. For working up, 2 ml of isopropanol are added. After cooling, the mixture is taken up in aqueous NH4Cl/ether and the organic phase is dried over MgSO4. Concentration of the solvent gives 1.1 g (crude product which is purified by flash chromatography (silica gel/petroleum ether:ethyl acetate=2:1)).

reactant | NaH | 4.3 mmol, 130 mg | [H-].[Na+]
reactant | 4-hexylidenecyclohexanol | 3.5 mmol, 0.7 g | C(CCCCC)=C1CCC(CC1)O | C12H22O
reactant | 4-chloroquinazoline | 3.6 mmol, 0.6 g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | NH4Cl ether | [NH4+].[Cl-].CCOCC
product | 4-(4-hexylidene-cyclohexyloxy)-quinazoline | C(CCCCC)=C1CCC(CC1)OC1=NC=NC2=CC=CC=C12 | C20H26N2O
